* INA163
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA163
* Date: 21JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS177D (c) NOVEMBER 2000 (c) REVISED MAY 2005
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 :
* Release to Web
*
*****************************************************************************
* BEGIN MODEL INA163
*
* MODEL OPERATES FROM -55 TO +125 C
*
* SOME PARAMETERS DO NOT TRACK THOSE
* OF THE REAL PART BUT THEY ARE AS CLOSE AS POSSIBLE
*
* BEGIN FEATURES
*
* CLOSED LOOP BANDWIDTH
* SLEW RATE
* INPUT VOLTAGE NOISE WITH 1/F
* INPUT CURRENT NOISE WITH 1/F
* CMRR
* PSRR
* VREF FUNCTION
* GAIN EQUATION
* OUTPUT SWING VS CURRENT
* OUTPUT CURRENT IS DRAWN THROUGH SUPPLY RAILS
* OUTPUT IMPEDANCE
* INPUT CAPACITANCE
* INPUT BIAS CURRENT
* QUIESCENT CURRENT
*
* END FEATURES
*
* PINOUT ORDER VO1 RG1 VIN- VIN+ V- SEN VO REF V+ RG- VO2
* PINOUT ORDER  1   3   4    5    6  8   9  10 11  12  14
*****************************************************************************
.SUBCKT INA163 1 3 4 5 6 8 9 10 11 12 14
*
Q17 6 15 16 QOP
Q21 11 17 16 QON
D7 18 0 DIN
D8 19 0 DIN
I8 0 18 0.1E-3
I9 0 19 0.1E-3
E2 20 0 6 0 1
E3 21 0 11 0 1
D9 22 0 DVN
D10 23 0 DVN
I10 0 22 0.1E-3
I11 0 23 0.1E-3
E4 24 3 22 23 0.15
G2 4 24 18 19 5.4E-4
E5 25 0 21 0 1
E6 26 0 20 0 1
E7 27 0 28 0 1
R30 25 29 1E3
R31 26 30 1E3
R32 27 31 1E3
R33 0 29 0.1
R34 0 30 0.1
R35 0 31 0.1
R36 28 32 1E3
R37 28 33 1E3
C6 25 29 1E-12
C7 26 30 1E-12
C8 27 31 0.5E-12
E11 34 35 30 0 -0.005005
E12 36 34 29 0 -0.005005
Q22 20 37 17 QDP
Q23 21 37 15 QDN
I13 21 17 1E-3
I14 15 20 1E-3
R38 0 38 10
R39 0 37 10
C9 38 0 30E-12
C10 37 0 10E-12
E15 39 40 41 0 1
E16 40 42 41 0 1
E17 43 0 40 0 1
D11 44 21 DD
D12 20 45 DD
V11 42 45 1.85
V12 44 39 1.6
I15 0 46 1E-3
D13 46 0 DD
V13 41 46 -0.71465
C11 40 0 3.33E-12
D14 47 48 DD
D15 48 49 DD
R40 48 40 330
R41 0 48 30E6
F1 48 0 V14 -0.18
E18 50 0 36 0 0.999
R42 50 51 35
C12 52 0 15E-12
C13 36 0 2E-12
V14 51 53 0
R43 16 54 7
G3 38 0 40 0 0.1
G4 37 0 38 0 0.1
C14 16 0 2P
L1 54 1 4E-9
R45 54 1 40
E20 47 43 41 0 1
E21 49 43 41 0 -1
L2 52 53 5E-9
R47 52 53 400
E10 35 4 31 0 1
C26 24 36 0.4E-12
V15 21 55 3.3
V16 56 20 3.3
D16 24 55 DV
D17 56 24 DV
D18 4 55 DV
D19 56 4 DV
I16 0 4 2E-6
R76 0 41 1E9
R77 34 36 1E9
R78 35 34 1E9
R79 4 35 1E9
R80 3 24 1E9
R81 42 40 1E9
R82 40 39 1E9
E22 32 0 4 0 1
E23 33 0 24 0 1
I17 0 24 -0.4E-6
V18 52 24 0
R84 3 1 3.015E3
Q24 6 57 58 QOP
Q25 11 59 58 QON
D22 60 0 DIN
D23 61 0 DIN
I18 0 60 0.1E-3
I19 0 61 0.1E-3
E24 62 0 6 0 1
E25 63 0 11 0 1
D24 64 0 DVN
D25 65 0 DVN
I20 0 64 0.1E-3
I21 0 65 0.1E-3
E26 66 12 64 65 0.15
G5 5 66 60 61 5.4E-4
E27 67 0 63 0 1
E28 68 0 62 0 1
E29 69 0 70 0 1
R88 67 71 1E3
R89 68 72 1E3
R90 69 73 1E3
R91 0 71 0.1
R92 0 72 0.1
R93 0 73 0.1
R94 70 74 1E3
R95 70 75 1E3
C27 67 71 1E-12
C28 68 72 1E-12
C29 69 73 0.5E-12
E30 76 77 72 0 0.005
E31 78 76 71 0 0.005
Q26 62 79 59 QDP
Q27 63 79 57 QDN
I23 63 59 1E-3
I24 57 62 1E-3
R96 0 80 10
R97 0 79 10
C30 80 0 30E-12
C31 79 0 10E-12
E32 81 82 83 0 1
E33 82 84 83 0 1
E34 85 0 82 0 1
D26 86 63 DD
D27 62 87 DD
V21 84 87 1.85
V22 86 81 1.6
I25 0 88 1E-3
D28 88 0 DD
V23 83 88 -0.71465
C32 82 0 3.33E-12
D29 89 90 DD
D30 90 91 DD
R98 90 82 330
R99 0 90 30E6
F2 90 0 V24 -0.18
E35 92 0 78 0 0.999
R100 92 93 35
C33 94 0 15E-12
C34 78 0 2E-12
V24 93 95 0
R101 58 96 7
G6 80 0 82 0 0.1
G7 79 0 80 0 0.1
C35 58 0 2P
L3 96 14 4E-9
R102 96 14 40
E36 89 85 83 0 1
E37 91 85 83 0 -1
L4 94 95 5E-9
R103 94 95 400
E38 77 5 73 0 1
C36 66 78 0.4E-12
V25 63 97 3.3
V26 98 62 3.3
D31 66 97 DV
D32 98 66 DV
D33 5 97 DV
D34 98 5 DV
I26 0 5 2E-6
R104 0 83 1E9
R105 76 78 1E9
R106 77 76 1E9
R107 5 77 1E9
R108 12 66 1E9
R109 84 82 1E9
R110 82 81 1E9
E39 74 0 5 0 1
E40 75 0 66 0 1
I27 0 66 -0.4E-6
V28 94 66 0
R112 12 14 3E3
Q28 6 99 100 QOP
Q29 11 101 102 QON
D35 9 11 DD
D36 6 9 DD
D37 103 0 DIN
D38 104 0 DIN
I28 0 103 0.1E-3
I29 0 104 0.1E-3
E41 105 0 6 0 1
E42 106 0 11 0 1
D39 107 0 DVS
D40 108 0 DVS
I30 0 107 0.1E-3
I31 0 108 0.1E-3
E43 109 110 107 108 10.4
G8 111 109 103 104 2.9E-13
R115 6 11 1E6
E44 112 0 106 0 1
E45 113 0 105 0 1
E46 114 0 115 0 1
R116 112 116 1E4
R117 113 117 1E4
R118 114 118 1E4
R119 0 116 1
R120 0 117 1
R121 0 118 1
R122 115 119 1E3
R123 115 120 1E3
C37 112 116 6E-9
C38 113 117 6E-9
C39 114 118 30E-9
E47 121 122 117 0 0.2
E48 123 121 116 0 0.2
Q30 105 124 125 QDP
Q31 106 124 126 QDN
I32 11 6 7E-3
I33 106 101 1E-3
I34 99 105 1E-3
R124 0 127 10
R125 0 124 10
C40 127 0 300P
C41 124 0 100P
E49 128 129 130 0 1
E50 129 131 130 0 1
E51 132 0 129 0 1
D41 133 106 DD
D42 105 134 DD
V31 131 134 1.85
V32 133 128 1.6
I35 0 135 1E-3
D43 135 0 DD
V33 130 135 -0.71465
C42 129 0 120E-12
D44 136 137 DD
D45 137 138 DD
R126 137 129 418
R127 0 137 3E6
F3 137 0 V34 -0.25
E52 139 0 123 0 0.999
R128 139 140 50
C43 141 0 5E-12
C44 123 0 1.5E-12
V34 140 142 0
R129 143 144 20
G9 127 0 129 0 0.1
G10 124 0 127 0 0.1
C45 144 0 2E-12
L5 144 9 4E-9
R130 144 9 40
E53 136 132 130 0 1
E54 138 132 130 0 -1
L6 145 142 5E-9
R131 145 142 400
E55 122 111 118 0 0.5
C46 109 123 0.4E-12
V35 106 146 1.13
V36 147 105 1.13
D46 109 146 DV
D47 147 109 DV
D48 111 146 DV
D49 147 111 DV
I36 0 111 2E-12
R132 0 130 1E9
R133 121 123 1E9
R134 122 121 1E9
R135 111 122 1E9
R136 110 109 1E9
R137 131 129 1E9
R138 129 128 1E9
E56 119 0 111 0 1
E57 120 0 109 0 1
I37 0 109 -0.4E-12
V38 141 109 0
E58 145 0 141 0 0.999
R140 110 8 6E3
R142 1 110 6E3
R143 111 14 6E3
R144 10 111 6.003E3
R145 143 102 50
R146 100 143 5
R147 125 101 50
R148 99 126 5
.MODEL QON NPN VAF=150 BF=80 IKF=0.5 RE=1 RC=1
.MODEL QOP PNP VAF=150 BF=80 IKF=0.5 RE=1 RC=1
.MODEL QDP PNP
.MODEL QDN NPN
.MODEL DD D
.MODEL DV D RS=10E3
.MODEL DVN D KF=2E-17
.MODEL DIN D KF=8E-17
.MODEL DVS D KF=6.5E-17
.ENDS
* END MODEL INA163
