.INCLUDE "OPAx134.lib"

.SUBCKT OPA4134 1 2 3 4 5 6 7 8 9 10 11 12 13 14
* +IN -IN V+ V- Vout
X1      3 2   4 11 1  OPAx134
X2      5 6   4 11 7  OPAx134
X3      10 9  4 11 8  OPAx134
X4      12 13 4 11 14 OPAx134
.ENDS
